US08877782B2
6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide
As described for example 105, 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (99 mg, 0.33 mmol) was converted, using isopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (87 mg, 79%) which was obtained as an off white solid. MS: m/e=370.0 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.33 mmol, 99 mg | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide | 87 mg, 79% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC(C)C)C=C1)C | C20H20FN3O3
